US05596124
Preparation of 2-(Carboxymethoxy)-5-[(2-chloro-α,α,α-trifluoro-p-tolyl)oxy]benzoic acid, diammonium salt
A mixture of 2-(carboxymethoxy)-5-[(2-chloro -α,α,α-trifluoro-p-tolyl)oxy]benzoic acid (2.0 g, 5.12 mmol) and concentrated ammonium hydroxide solution (0.5 mL, 7.25 mmol) in water is stirred until homogeneous and concentrated in vacuo to obtain a residue. A solution of the residue in methanol is brought to the cloud point with ether. The solution is cooled in an ice bath and the solid is collected by filtration to give the title product as a white solid (1.5 g, 72%, mp 226-227).

reactant | 2-(carboxymethoxy)-5-[(2-chloro -α,α,α-trifluoro-p-tolyl)oxy]benzoic acid | 5.12 mmol, 2.0 g | C(=O)(O)COC1=C(C(=O)O)C=C(C=C1)OC1=CC(=C(C=C1)C(F)(F)F)Cl | C16H10ClF3O6
reactant | ammonium hydroxide | 7.25 mmol, 0.5 mL | [OH-].[NH4+]
reactant | ether | CCOCC | C4H10O
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | 2-(Carboxymethoxy)-5-[(2-chloro-α,α,α-trifluoro-p-tolyl)oxy]benzoic acid, diammonium salt | 1.5 g, 72% | [NH4+].[NH4+].C(=O)(O)COC1=C(C(=O)[O-])C=C(C=C1)OC1=CC(=C(C=C1)C(F)(F)F)Cl.C(=O)(O)COC1=C(C(=O)[O-])C=C(C=C1)OC1=CC(=C(C=C1)C(F)(F)F)Cl | InChI=1S/2C16H10ClF3O6.2H3N/c2*17-12-6-9(1-3-11(12)16(18,19)20)26-8-2-4-13(25-7-14(21)22)10(5-8)15(23)24;;/h2*1-6H,7H2,(H,21,22)(H,23,24);2*1H3
